US06191164B1
e) 4-Amino-6-methoxycarbonyl-2,2-dimethylchroman
0.05 mol of 4-amino-6-carboxy-2,2-dimethylchroman is treated with 9.5 ml of conc. sulfuric acid in 200 ml of methanol and the dark solution is heated to reflux for 6 hours. The reaction mixture is adjusted to pH 9 with ice cooling by addition in portions of saturated aqueous potassium carbonate solution and the precipitated salt is filtered off. The solvent is distilled off on a rotary evaporator, the oily residue is treated with water and the mixture is extracted several times with diethyl ether. After removing the solvent by distillation, the oily amorphous residue is crystallized under n-heptane.

reactant | 4-amino-6-carboxy-2,2-dimethylchroman | 0.05 mol | NC1CC(OC2=CC=C(C=C12)C(=O)O)(C)C | C12H15NO3
reactant | sulfuric acid | 9.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-Amino-6-methoxycarbonyl-2,2-dimethylchroman | NC1CC(OC2=CC=C(C=C12)C(=O)OC)(C)C | C13H17NO3
